US05567774
2 . 1-Chloro-3-(1,1-Dimethylethoxy)-2,2-Dimethyl-Propane Lot 8913
B.P.=169.0°-174.0° C. GC assay=2.98% cyclohexane, 16.79% 3-chloro-2,2-dimethyl-1-propanol, 78.06% desired product, and 1.17% unknowns.

reactant | 3-chloro-2,2-dimethyl-1-propanol | ClCC(CO)(C)C | C5H11ClO
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-Chloro-3-(1,1-Dimethylethoxy)-2,2-Dimethyl-Propane | 78.06% | ClCC(COC(C)(C)C)(C)C | C9H19ClO
